US07935815B2
Synthesis of 2,6-difluoro-3-(4-methyl-1H-imidazol-1-yl)pyridine
Trifluoroacetic acid (1.08 ml) and ammonium acetate (1.08 g) were added to a solution of N-(2,6-difluoropyridin-3-yl)-N-(2-oxopropyl)formamide (2.52 g) in toluene (40 ml), and the reaction solution was heated under reflux in a nitrogen atmosphere for four hours. After leaving to cool, ethyl acetate and a saturated sodium bicarbonate solution were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine and then dried over anhydrous sodium sulfate. The drying agent was separated by filtration, and then the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (2.19 g). The property values of the compound are as follows.

reactant | Trifluoroacetic acid | 1.08 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonium acetate | 1.08 g | C(C)(=O)[O-].[NH4+]
reactant | N-(2,6-difluoropyridin-3-yl)-N-(2-oxopropyl)formamide | 2.52 g | FC1=NC(=CC=C1N(C=O)CC(C)=O)F | C9H8F2N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,6-difluoro-3-(4-methyl-1H-imidazol-1-yl)pyridine | 2.19 g | FC1=NC(=CC=C1N1C=NC(=C1)C)F | C9H7F2N3
